US08729071B2
To a solution of 5-(hydroxymethyl)picolinonitrile (1.59 g, 11.9 mmol) in 80 mL of DCM was added diisopropylethylamine (3.2 mL), followed by a solution of methanesulfonyl chloride (1.49 g, 13.0 mmol) in 20 mL of DCM at 0° C. The solution was stirred at 0° C. for 40 min and washed with 5% citric acid, sat. NaHCO3 (aq.) and brine. After concentration, the residue was purified by silica gel chromatography (elution with 0-30% EtOAc/Hex) to afford (6-cyanopyridin-3-yl)methyl methanesulfonate (2.33 g).

reactant | 5-(hydroxymethyl)picolinonitrile | 11.9 mmol, 1.59 g | OCC=1C=CC(=NC1)C#N | C7H6N2O
reactant | diisopropylethylamine | 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 13.0 mmol, 1.49 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (6-cyanopyridin-3-yl)methyl methanesulfonate | 2.33 g | CS(=O)(=O)OCC=1C=NC(=CC1)C#N | C8H8N2O3S
